US07517901B2
6-Nitro-indazol (4.0 g, 24.52 mmol), prepared using the procedure of Tetrahedron (1999), 6917-6922, was dissolved in 60 mL of DMF and iodine (12.4 g) and KOH (5.23 g) were added successively. The reaction mixture was stirred at room temperature for 1.5 hours, then poured into 10% aqueous NaHSO3. The aqueous mixture was extracted three times with 150 mL EtOAc, and the combined organic layers were washed with water and brine, dried over MgSO4, filtered, and concentrated under reduced pressure to give 7.01 g of crude 3-Iodo-6-nitro-1H-indazole.

reactant | 6-Nitro-indazol | 24.52 mmol, 4.0 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | iodine | 12.4 g | II | I2
reactant | KOH | 5.23 g | [OH-].[K+]
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-Iodo-6-nitro-1H-indazole | 7.01 g | IC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C7H4IN3O2
